US07795236B2
tert-Butyl N-{2-[3-(N-benzyloxycarbonyl-N-ethylamino)-propoxy]biphenyl-4-ylmethyl}carbamate
To a solution of tert-butyl N-[2-(3-ethylaminopropoxy)-biphenyl-4-ylmethyl]carbamate (0.41 g) in tetrahydrofuran (4.0 mL) was added N-carbobenzoxyoxysuccinimide (0.260 g), and the resulting mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on aminopropylated silica gel (eluent: hexane/ethyl acetate=2/1) to give the title compound (0.46 g).

reactant | tert-butyl N-[2-(3-ethylaminopropoxy)-biphenyl-4-ylmethyl]carbamate | 0.41 g | C(C)NCCCOC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C23H32N2O3
reactant | N-carbobenzoxyoxysuccinimide | 0.260 g | C(=O)(OCC1=CC=CC=C1)ON1C(CCC1=O)=O | C12H11NO5
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | tert-Butyl N-{2-[3-(N-benzyloxycarbonyl-N-ethylamino)-propoxy]biphenyl-4-ylmethyl}carbamate | 0.46 g | C(C1=CC=CC=C1)OC(=O)N(CC)CCCOC1=C(C=CC(=C1)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C31H38N2O5
